US03959486
A mixture of 1.3 g. of 3-(o-N-methylcarbamoylmethoxyphenoxy)-1-t-butylaminopropan-2-ol, 20 ml. of absolute ethanol and 2 ml. of aqueous 36% w/v formaldehyde solution is heated under reflux for 24 hours. The solution is evaporated to dryness under reduced pressure and there is thus obtained as the residual oil 5-(o-N-methylcarbamoylmethoxyphenoxymethyl)-3-t-butyloxazolidine which is characterised by its proton magnetic resonance spectrum.

reactant | 3-(o-N-methylcarbamoylmethoxyphenoxy)-1-t-butylaminopropan-2-ol | CNC(=O)COC1=C(OCC(CNC(C)(C)C)O)C=CC=C1 | C16H26N2O4
reactant | formaldehyde | C=O | CH2O
solvent | ethanol | C(C)O | C2H6O
product | 5-(o-N-methylcarbamoylmethoxyphenoxymethyl)-3-t-butyloxazolidine | CNC(=O)COC1=C(OCC2CN(CO2)C(C)(C)C)C=CC=C1 | C17H26N2O4
